US04008269
Ethyl α-fluoro-3-chloro-4-cyclohexylphenylacetate
A mixture of 118 g. (0.33 moles) of ethyl α-bromo-3-chloro-4-cyclohexylphenylacetate is vigorously stirred at 130°-140° C with 29 g. (0.5 moles) of potassium fluoride in 100 ml. of ethylene glycol for 12 hours. The reaction mixture is cooled and 400 ml. of water is added and the crude product separates. The aqueous glycol mixture is extracted with ether, the ether is then dried, evaporated to dryness and upon distillation results in ethyl α-fluoro-3-chloro-4-cyclohexylphenylacetate.

reactant | ethyl α-bromo-3-chloro-4-cyclohexylphenylacetate | 0.33 moles | BrC(C(=O)OCC)C1=CC(=C(C=C1)C1CCCCC1)Cl | C16H20BrClO2
reactant | potassium fluoride | 0.5 moles | [F-].[K+]
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | water | O | H2O
product | Ethyl α-fluoro-3-chloro-4-cyclohexylphenylacetate | FC(C(=O)OCC)C1=CC(=C(C=C1)C1CCCCC1)Cl | C16H20ClFO2
